US06632826B1
A solution of [2-(4-benzyl-2-oxo-oxazolidin-3-yl)-2-oxo-ethyl]-phosphonic acid diethyl ester (36.72 g) in dry acetonitrile (550 ml) was stirred at room temperature under nitrogen and treated with lithium chloride (4.39 g) followed by the dropwise addition of 1.8-diazabicyclo (5.4.0) undec-7-ene (g, mmol). After 5 minutes, the crude 4-benzyl-2,2-dimethyl-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester dissolved in dry acetonitrile (350 ml) was added via a cannula, and the resulting mixture was stirred at room temperature for 80 minutes. The mixture was then diluted with diethyl ether (1 L) and washed with brine (500 ml). The organic layer was dried (anhydrous magnesium sulfate) and concentrated in vacuo . Purification by flash chromatography on silica gel (ethyl acetate/hexane: 1/4 to 3/7) provided of 4-benzyl-5-[4-(4-benzyl-2-oxo-oxazolidin-3-yl)-4-oxo-but-2-enyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (29.33 g, 69%).

reactant | [2-(4-benzyl-2-oxo-oxazolidin-3-yl)-2-oxo-ethyl]-phosphonic acid diethyl ester | 36.72 g | C(C)OP(OCC)(=O)CC(=O)N1C(OCC1CC1=CC=CC=C1)=O | C16H22NO6P
reactant | lithium chloride | 4.39 g | [Cl-].[Li+]
reactant | 1.8-diazabicyclo (5.4.0) undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-benzyl-2,2-dimethyl-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OCC1(CC1=CC=CC=C1)CC=O)(C)C | C19H27NO4
solvent | acetonitrile | 550 ml | C(C)#N | C2H3N
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
solvent | diethyl ether | 1 L | C(C)OCC | C4H10O
product | 4-benzyl-5-[4-(4-benzyl-2-oxo-oxazolidin-3-yl)-4-oxo-but-2-enyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 29.33 g, 69% | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC=CC(=O)N1C(OCC1CC1=CC=CC=C1)=O)(C)C | C31H38N2O6
